US06444685B1
{Butyl-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-amino}-acetic Acid Benzyl Ester
The title compound was prepared from N-butyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide ( ) and benzyl bromoacetate according to the procedure of Intermediate 2 as a gum; 1H NMR (CDCl3) δ 0.85 (t, J=7.23 Hz, 3H), 1.19-1.32 (m, 2H), 1.43-1.53 (m, 2H), 2.56 (t, J=6.12 Hz, 4H), 3.19 (t, J=7.47 Hz, 2H), 3.72 (t, J=6.06 Hz, 4H), 4.09 (s, 2H), 5.10 (s, 2H), 6.84-6.89 (m, 2H), 7.29-7.40 (m, 5H), 7.69-7.74 (m, 2H); MS (ES) m/z 45.94 (MH+); HRMS for C25H30N2O6S: 459.1945 (MH+).

reactant | N-butyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C15H22N2O3S
reactant | benzyl bromoacetate | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
product | {Butyl-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-amino}-acetic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(CN(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O)CCCC)=O | C24H30N2O5S
